US07473786B1
5-tert-Butyl-2-phenyl-benzo[b]furan (entry 2, Table 3):
The general procedure was used to convert phenylacetylene and 4-tert-Butyl-2-iodophenol to the title product. Purification by flash chromatography (10% ethyl acetate in hexanes as the eluent) gave the analytically pure product as a white solid (398 mg, 80% yield). 1H NMR (300 MHz, CDCl3) δ 7.83 (dd, J=7.16, 2H), 7.57-7.56 (m, 1H), 7.44-7.38 (m, 3H), 7.34-7.30 (m, 2H), 6.96 (s, 1H), 1.38 (s, 9H). 13C NMR (75 MHz, CDCl3) δ 155.99, 153.12, 145.92, 130.65, 128.88, 128.72, 128.33, 124.82, 122.23, 117.06, 110.42, 101.48, 34.68, 31.83. Anal. Calcd. for C18H18O: C, 86.36; H, 7.25. Found C, 86.34; H, 7.13. m.p.: 103-104° C. (lit., 7102-103° C.).

reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 4-tert-Butyl-2-iodophenol | C(C)(C)(C)C1=CC(=C(C=C1)O)I | C10H13IO
product | 5-tert-Butyl-2-phenyl-benzo[b]furan | C(C)(C)(C)C1=CC2=C(OC(=C2)C2=CC=CC=C2)C=C1 | C18H18O
